US06566367B2
Add tetrakistriphenylphosphine palladium(0)(0.1 g, 0.01 mmol) to 1′-(5-iodo-1H-benzimidazol-2-yl)-spiro[isobenzofuran -1,4′-piperidin]-3-one (0.10 g, 0.22 mmol) in ethylene glycol dimethyl ether (2 mL). To this solution, add pyridine-3-boronic acid (0.06 g, 0.45 mmol) and aqueous sodium carbonate (1M, 1 mL) and heat the reaction at 80° C. for 2 hours. Extract the product with EtOAc (20 mL). Wash the combined extracts with brine (20 mL), dry over sodium sulfate, and concentrate in vacuo. Purify by flash column chromatography (5% MeOH—CH2Cl2) to obtain 1′-(5-pyridin-3-yl-1H-benzimidazol-2-yl)-spiro[isobenzofuran-1,4′-piperidin]-3-one as a white solid.

reactant | 1′-(5-iodo-1H-benzimidazol-2-yl)-spiro[isobenzofuran -1,4′-piperidin]-3-one | 0.22 mmol, 0.10 g | IC1=CC2=C(NC(=N2)N2CCC3(CC2)OC(C2=CC=CC=C23)=O)C=C1 | C19H16IN3O2
reactant | pyridine-3-boronic acid | 0.45 mmol, 0.06 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 1M, 1 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 2 mL | COCCOC | C4H10O2
product | 1′-(5-pyridin-3-yl-1H-benzimidazol-2-yl)-spiro[isobenzofuran-1,4′-piperidin]-3-one | N1=CC(=CC=C1)C1=CC2=C(NC(=N2)N2CCC3(CC2)OC(C2=CC=CC=C23)=O)C=C1 | C24H20N4O2
